Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Fall with head strike 
 
Major Surgical or Invasive Procedure:
___ ICP bolt placement 
___ ICP bolt removal 

 
History of Present Illness:
___ year old gentleman who sustained an unwitnessed fall
evening with head strike. He was found by family in driveway and 
thought
to be intoxicated. Patient was initially brought to ___
with decreased mental status. CT scan showed extensive bifrontal
IPH, right IVH and SAH. The patient's exam continued to 
deteriorate, he was
intubated and transferred to ___ for further neurosurgical 
evaluation.  
 
Past Medical History:
HTN
 
Social History:
___
Family History:
Non contributory 
 
Physical Exam:
ON ADMISSION:
PHYSICAL EXAM:
Gen: WD/WN, comfortable, NAD. Intubated. 
HEENT: Pupils: equal and minimally reactive EOMs not intact 
Neck: Supple.
Abd: Soft, NT, BS+
Extrem: Warm and well-perfused.

Neuro:
Mental status: No eye opening to noxious stimuli, not following
commands off sedation. (+) Cough (+) gag
Withdraws all 4 extremities to deep noxious

ON DISCHARGE:
Patient is awake and alert. 
Oriented to self, hospital and year with prompting.
Tongue midline, face is symmetric and PERRL. 
He is able to move all extremities purposefully and antigravity. 

He is able to wiggle toes and give thumbs up bilaterally to 
command. 
He has a foley catheter for urinary retention. 
  
 
Pertinent Results:
___ CTA HEAD/NECK W/ & W/O CONTRAST (PRELIM READ*) 
1. Multifocal subarachnoid, subdural and intraparenchymal 
hematomas, as 
described above with mild left uncal herniation, stable left to 
right 
subfalcine herniation and tonsillar herniation. 
2. Mild narrowing of the anterior and middle cerebral arteries 
and branches, likely secondary to vasospasm. 
3. The right transverse and sigmoid sinus as well as jugular 
foramen are 
congenitally diminutive without postcontrast filling although 
the right 
proximal internal jugular vein does appear to opacify.  It is 
uncertain 
whether this lack of filling is secondary to a combination of 
contrast bolus timing and diminutive size versus possible subtle 
nonocclusive thrombus secondary to adjacent fractures.  If 
clinically indicated, repeat CTV could be performed. 
4. 30% stenosis of the proximal left internal carotid artery by 
NASCET 
criteria. 
5. No evidence of aneurysm, vascular abnormality or thrombosis. 
6. Nondisplaced fracture of the left frontoparietal calvarium 
with minimal 
diastases of the right temporal calvarial fracture, extending 
into the right lambdoid suture. 
7. Paranasal sinus disease. 

___ CT CHEST/ABDOMEN/PELVIS
IMPRESSION:  
1.  Small amount of intermediate density fluid in the pelvis.It 
is unclear 
whether the increased density is artifactual or related to small 
blood 
products. 
2.  Enteric tube terminates at the GE junction; recommend 
advancement so that it is well within the stomach. 

___ CT HEAD (PORTABLE)
1. Stable multifocal intraparenchymal hemorrhage of the frontal 
lobes, left temporal lobe, right parietal lobe, and right 
cerebellum. 
2. Stable mass effect on the left lateral ventricle with stable 
approximately 7 mm left-to-right midline shift. 
3. Stable intraventricular hemorrhage, diffuse subarachnoid 
hemorrhage, and tentorial subdural hemorrhage. 
4. Paranasal sinus opacification as described, which may contain 
blood 
products, however fungal infection is not excluded on the basis 
examination. 
5. Stable left frontoparietal fracture and diastasis of right 
temporal bone extending into right lambdoid suture. 

___: NCHCT
1. Status post intracranial pressure bolt placement overlying 
right frontal lobe, with streak artifact from device limiting 
examination. 
2. Stable multi focal intraparenchymal hemorrhage as described. 
3. Grossly stable intraventricular hemorrhage described. 
4. Slightly increased size of the right lateral ventricle 
temporal horn. 
5. Diffuse subarachnoid hemorrhage with redistribution within 
right frontal cortex. 
6. Opacified maxillary sinuses with hyperdense fluid.  While 
findings may 
represent blood products related to trauma, underlying fungal 
sinusitis cannot be excluded on the basis of this examination. 
7. Stable left frontoparietal fracture and diastasis of right 
temporal bone extending into right lambdoid suture. 

PORTABLE HEAD CT: ___
IMPRESSION: 
1. Stable placement of the intracranial pressure bolt overlying 
the right 
frontal lobe all with streak artifact from device limiting 
examination. 
2. Multifocal intraparenchymal hemorrhage, intraventricular 
hemorrhage, and diffuse subarachnoid hemorrhage are essentially 
unchanged, although there appears to be minimally increased 
cytotoxic edema surrounding the hemorrhages of the left frontal 
and left anterior temporal lobe. 
3. Similar appearance of mild left uncal herniation and inferior 
cerebral 
tonsillar displacement.  Unchanged rightward 4 mm midline shift. 

4. Persistent opacification of the maxillary sinuses with 
hyperdense fluid.  Findings may represent blood products related 
to trauma, underlying fungal sinusitis or inspissated secretions 
cannot be excluded. 
5. Stable nondisplaced left frontoparietal fracture and right 
temple bone 
diastasis. 

___ Portable non-contrast head CT:
1. Bifrontal, left temporal, right cerebellar parenchymal 
hemorrhages are 
similar in configuration from prior exam with slightly increased 
surrounding edema. 
2. Interval redistribution of subdural intraventricular 
hemorrhages with 
decreased bilateral subarachnoid hemorrhages. 
3. No new hemorrhage.  No worsening ventriculomegaly.  No 
definitive acute 
infarct. 

___ MRI MRA Brain
1. Large bifrontal, anterior left temporal, and right cerebellar 
and smaller right temporoparietal hemorrhagic contusions, which 
are relatively unchanged in comparison to prior CT. 
2. Lesions involving the anterior left cingulate gyrus, and the 
peripheral 
bilateral temporal parietal cortices, left greater than right, 
likely 
representing a combination of infarction and contusion. 
3. Beaded stenosis of the major cerebral arteries most likely 
due to 
vasospasm. 
4. Edema and ischemic change within the corpus callosum, likely 
due to diffuse axonal injury. 
5. Hemorrhage layering within the bilateral occipital horn 
lateral ventricles within the subdural and subarachnoid spaces 
at the cerebral convexities, which is relatively unchanged. 
6. Severe bifrontal and posterior fossa mass effect with 
relatively unchanged left-to-right subfalcine herniation and 
left uncal herniation. 
7. No worsening of ventricular dilatation in comparison to ___. 
8. Known cranial fractures are not well visualized by MRI and 
better 
characterized on prior CT from ___. 
9. Paranasal sinus disease and bilateral mastoid air cell 
effusions. 

___ CXR
In comparison with the study of ___, the opacification at 
the left base has cleared and the hemi diaphragm is sharply 
seen.  No evidence of vascular congestion. 
The endotracheal and nasogastric tubes are unchanged in 
position.  The right subclavian PICC line has been pulled back 
to the mid to lower portion of the SVC. 
  
___ CXR
Allowing for differences in technique, there has not been a 
relevant change in the appearance of the chest since recent 
study of 1 day earlier. 

___ CXR
Compared to chest radiographs ___ through ___. 
New peribronchial opacification, right lower lobe accompanied by 
depression of the hilus is probably atelectasis.  Subsegmental 
atelectasis at the left base is and improvement since ___.  
Upper lungs are clear. 
10 mm round opacity projecting over the anterior right seventh 
rib could be a nipple or a lung nodule.  Conventional 
radiographs recommended when feasible.  Heart size is normal.  
Pleural effusions are small if any.  No pneumothorax. ET tube, 
esophageal drainage tube, right PIC line are all in standard 
positions. 

___ CXR
Right PICC line tip is at the level of cavoatrial junction.  NG 
tube tip is in the stomach.  Heart size and mediastinum are 
stable.  There is interval improvement in pulmonary edema/ 
bibasal opacities potentially representing aspiration.  Still 
present are bibasal opacities and a left lingular most likely 
atelectasis.  There is no pneumothorax. 

___ CXR
Comparison to ___.  Stable borderline size of the 
cardiac 
silhouette.  Stable platelike atelectasis at the left lung 
basis.  No new 
focal parenchymal opacities.  No pulmonary edema.  The right 
PICC line and the feeding tube are in stable correct position. 

___ CXR 
IMPRESSION:    
In comparison to ___ chest radiograph, a nasogastric 
tube has been repositioned, now terminating in the expected 
location of the gastroduodenal junction in the right upper 
quadrant of the abdomen.  Heart size is normal, and lungs are 
grossly clear. 

___ Video swallow. 
IMPRESSION:    
Patient is unable to initiate a swallow.  Evaluation for 
aspiration 
penetration cannot be performed.   
Please refer to the speech and swallow division note in OMR for 
full details, assessment, and recommendations. 

 
Brief Hospital Course:
Mr. ___ was admitted to the Neurosurgical Service from the 
OSH after patient experienced a mechanical fall with head strike 
and sustained multiple intracranial hemorrhages. 

On ___ Patient remained neurologically stable. Repeat CT head 
revealed expected evoluation. ICP bolt was placed for ICP 
monitoring. Hypertonic saline as started given increased 
cerebral edema. 

On ___, the patient's HTS gtt was increased to 35cc/hour 
overnight. His AM serum Na was 149. Neurologic checks were 
liberalized to every 2 hours. Given ICPs within the normal 
range, it was determined the hypertonic saline gtt would be 
weaned. Serum Na levels were continued to be checked every six 
hours. 

On ___, the patient remained neurological and hemodynamically 
stable. His 3% gtt was weaned off. A repeat head CT was obtained 
and showed a stable hemorrhage with increased cytotoxic edema. 
His ICP bolt was removed, ICPs prior to removal were less than 
10. There were plans for an MRI today but the patient started 
following simple commands. Will hold off MRI for now. 

On ___ the patients neurologic exam was stable: Eyes closed, 
LUE squeezes hand/localizes, LLE wiggles toes to command 
intermittently and localizes, RLE withdraws, RUE no movement. 
Sodium was slowly trending down to 150.  He underwent a 
bronchoscopy w/ BAL of RLL given increased secretions. This was 
overall clean, no purulence, no plugs. Foley was replaced for 
urinary retention. 

On ___ vent wean was attempted and ultimately the ICU team did 
not want to attempt to extubate, plan to wait until ___ 
because if does not tolerate will not re-intubate. He had a Tm 
of 102.5 overnight and cultures were sent. He did not follow 
commands in the evening and was febrile again. started on 
nafcillin based on BAL results. 

On ___ he was following commands x 4, exam was stable, and 
weaning the ventilator as tolerated.

On ___, the patient remained neurologically stable on 
examination. He was up to the chair with assistance. 

On ___, the patient remained neurologically stable on 
examination. His morning serum Na was 159. Free water flushes 
were increased. Dr. ___ met with the family and a 
discussion was held surrounding his prognosis. It was determined 
he would continue with full care and his neurologic checks were 
changed to every 4 hours. 

On ___, the patient's neurologic examination was slightly worse. 
The EEG showed multifocal epileptiform discharges and was 
recommended to continue LTM for another day. Cefepime was 
changed to Zosyn since it can lower seizure threshold. He 
underwent a bronch for BAL.

On ___ the patient neuro exam was poor but stabile, not 
following any commands. EEG showed worsened multifocal 
epileptiform periotic discharges, no seizure activity but 
concerning for high risk for developing seizures. Neurology was 
consulted for evaluation of adding a second antiepileptic 
medication. They believe the EEG changes are secondary to 
underlying structural brain abnormalities and did not recommend 
any changes to AEDs at this time. He was ordered for MRI/MRA to 
evaluate for etiology of continued poor exam. He continued to 
spike intermittent fevers.  ABG revealed pO2 77 on 40%FiO2 with 
resp alkalosis likely ___ tachypnea on PS ___, increased to 50% 
FiO2. 

On ___ his exam was worsened with intermittently no motor exam 
at times, but at other times he would briskly withdraw BLE and 
localize LUE. Repeat ABG showed improved oxygenation but 
continued resp alkalosis and increased thick secretions. CT was 
deferred since exam was waxing and waning, MRI still pending. 

On ___ his exam was stable. MRI was complete and showed new 
basal ganglia infarcts, likely explaining his decreased mental 
status over the past week.  Plan to continue to monitor him over 
the weekend and have a family meeting on ___ to discuss plan 
of care. 

On ___, the patient remained neurologically stable. He is 
following commands intermittently. 

On ___, the patient remained neurologically stable. He is more 
awake today. The plan is for a family meeting tomorrow with the 
neurosurgery attending and neurology. 

On ___, a family meeting took place. The patient was started on 
amantadine. The plan is to extubate him tomorrow after having 
received amantadine. He continues on triple coverage antibiotics 
for positive sputum cultures. 

On ___, the patient remained neurologically stable. He was 
extubated and tolerated it well. A nasogastric tube was placed. 
His sodium is gradually trending down and he was started NA tabs 
1G TID. 

On ___, neurologically patient is stable. While patient is 
working with physical therapy, patient had respiratory distress, 
stridor. Patient was given racemic epi and started on decadron 
every 8 hours. Unable to do speech and swallow right now due to 
decreased level of alterness. Bolt Staples removed. 

On ___ he continued to improve neurologically. He was alert and 
oriented to his name, following commands to squeeze both hands, 
RUE ___ and LUE/BLE at least ___. He worked with physical 
therapy. 

On ___, patient neurologically remains stable. Respiratory wise 
patient is improving, will continue with full course of 
antibiotics. Speech and swallowing continue to follow the 
patient, at this time patient remains NPO. Discussed with family 
at bedside for need of PEG, this will be re-addressed on ___. 
Will monitor sodium, increase NA tablets to 2grams TID. 

On ___, the patient was neurologically stable. He continued on 
triple antibiotic therapy for VAP to complete a 10 day course. 
His sodium was stable. 

On ___, the patient was awaiting rehabilitation placement. A 
discussion was held that he needs a definitive nutrition source. 


On ___, the patient remained neurologically stable. Labs 
revealed that his BUN was trending down and sodium was stable at 
141. The team was called to the patient's bedside to speak with 
family, who were updated on his status. The patient's 
neurological exam remained stable.

On ___, the patient remained neurologically stable.  He was 
evaluated by the Speech and Swallow team, who recommended that 
the patient remain NPO. The team began weaning the patient's 
salt tabs. His afternoon serum sodium was 144.

On ___, the patients neurological exam remained stable. He 
continued to be on tube feeds and was NPO as he was not cleared 
for PO intake from the speech and swallow team. He remained on 
salt tabs 2 grams twice daily and his sodium on ___ was 149. 
His salt tabs were decreased to 1 gram twice daily. A discussion 
was held with the patients spouse that he needs a definitive 
nutrition source and PEG placement was discussed. The patients 
wife preferred to wait until the patient was re-evaluated by 
speech and swallow to make a definitive decision.

On ___ the patients neurological exam remained stable. His BUN 
was 30, therefore  he received a 500 ml normal saline bolus. 
Speech and swallow saw and evaluated the patient and recommended 
a video swallow. The patients sodium was 143, therefore his salt 
tabs were discontinued. 

On ___, patient is neurologically stable. Patient had a video 
swallow with speech/swallow service that showed that patient is 
unable to take anything by mouth. On morning labs, BUN 22; free 
water flushes increased. ACS was paged for a consult for PEG 
placement. 

On ___, patient remains  neurologically stable. Patient to go 
to OR with ACS for PEG placement tomorrow. 

On ___, patient to OR with ACS service for PEG placement, OR 
uneventful. 

On ___,  neurologically stable, advanced PEG for tube feeding 
in the afternoon. Case management working on disposition for 
rehab. 

On ___ the patient's exam remained stable and unchanged. He was 
able to answer simple questions but was only oriented to self. 
He was receiving meds and tube feeding via PEG tube without 
complication. A guardianship hearing is planned for ___. 

On ___, Mr. ___ was more alert and awake this morning. He 
was able to state his full name, hospital and year correctly. 
Guardianship continues to be pending and he is being screened 
for acute rehab.

On ___ the patient remained neurologically and hemodynamically 
stable. He continued to await guardianship which was pending for 
___. He continued on tube feeds at goal and was out of bed to 
the chair with physical therapy. 

On ___ the patiients neurologic exam remained stable although 
he appears more tired. He is still participating in the exam 
with encouragement. His labs are stable. 

On ___, the patient was again tired on the morning exam however 
otherwise he is neurologically stable. 

On ___, the patient is very alert during the morning neurologic 
exam which is  stable. His last bowel movement was on ___ and 
he was ordered additional bowel meds. The patient's intake is 1L 
positive. He has no peripheral edema or respiratory compromise 
and we will continue to monitor. His guardianship hearing is 
tomorrow. 

On ___, Mr. ___ was medically ready for discharge. His 
guardianship hearing yesterday deemed his wife temporary 
guardianship. He continued to work with ___ for strength and 
conditioning. He was receiving tube feeds via PEG tube and 
continued to have a foley catheter for urinary retention. He was 
discharged in stable condition to ___ 
___. 

 
Medications on Admission:
Amlodipine 5mg daily  
Lisinopril 40mg daily  
Atorvastatin 20mg daily  
 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN pain 
2. Amantadine 150 mg PO BID 
3. Amlodipine 5 mg PO DAILY 
4. Bisacodyl 10 mg PO/PR DAILY:PRN Constipation 
5. LevETIRAcetam 1000 mg PO BID 
6. Lisinopril 40 mg PO DAILY 
7. Famotidine 20 mg PO BID 
8. Heparin 5000 UNIT SC BID 
9. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
10. Senna 17.2 mg PO DAILY 
11. Ibuprofen Suspension 400-800 mg PO Q6H:PRN fever 
12. Ipratropium-Albuterol Neb 1 NEB NEB Q6H 
13. Docusate Sodium (Liquid) 100 mg PO BID 
14. Guaifenesin ___ mL PO Q6H:PRN cough 
15. Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL BID 
16. Labetalol 400 mg PO TID 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
___ 
Hyponatremia
Ventilator Associated Pneumonia 
 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.
 
Discharge Instructions:
Brain Hemorrhage without Surgery

Activity

     We recommend that you avoid heavy lifting, running, 
climbing, or other strenuous exercise until your follow-up 
appointment.

     You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.

     No driving while taking any narcotic or sedating 
medication. 

     If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 

     No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

 

Medications

     ***Please do NOT take any blood thinning medication 
(Aspirin, Ibuprofen, Plavix, Coumadin) until cleared by the 
neurosurgeon. 

     ***You have been discharged on Keppra (Levetiracetam). 
This medication helps to prevent seizures. Please continue this 
medication as indicated on your discharge instruction. It is 
important that you take this medication consistently and on 
time. 

     You may use Acetaminophen (Tylenol) for minor discomfort 
if you are not otherwise restricted from taking this medication.

 

 What You ___ Experience:

     You may have difficulty paying attention, concentrating, 
and remembering new information.

     Emotional and/or behavioral difficulties are common. 

     Feeling more tired, restlessness, irritability, and mood 
swings are also common.

     Constipation is common. Be sure to drink plenty of fluids 
and eat a high-fiber diet. If you are taking narcotics 
(prescription pain medications), try an over-the-counter stool 
softener.

 

Headaches:

     Headache is one of the most common symptom after a brain 
bleed. 

     Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 

     Mild pain medications may be helpful with these headaches 
but avoid taking pain medications on a daily basis unless 
prescribed by your doctor. 

     There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


 

 

When to Call Your Doctor at ___ for:

     Severe pain, swelling, redness or drainage from the 
incision site. 

     Fever greater than 101.5 degrees Fahrenheit

     Nausea and/or vomiting

     Extreme sleepiness and not being able to stay awake

     Severe headaches not relieved by pain relievers

     Seizures

     Any new problems with your vision or ability to speak

     Weakness or changes in sensation in your face, arms, or 
leg

 

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:

     Sudden numbness or weakness in the face, arm, or leg

     Sudden confusion or trouble speaking or understanding

     Sudden trouble walking, dizziness, or loss of balance or 
coordination

     Sudden severe headaches with no known reason

 

 

 
Followup Instructions:
___